US08633173B2
4-{4-[8-(2,3-Dimethoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(2,3-dimethoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridine (0.200 g, 0.690 mmol) and 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.229 g, 0.828 mmol) in a manner analogous to Example 311a and 311b to give product (0.264 g, 72%). MP=93-95° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.55 (s, 1H), 8.77 (d, 1H), 7.52 (m, 3H), 7.15 (m, 6H), 4.05 (m, 2H), 3.87 (s, 3H), 3.68 (s, 3H), 2.88 (br m, 2H), 2.60 (m, 1H), 1.75 (m, 2H), 1.45 (m, 2H), 1.41 (s, 9H). MS=530 (MH)+.

reactant | 2-chloro-8-(2,3-dimethoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridine | 0.690 mmol, 0.200 g | ClC1=NN2C(C(=CC=C2)C2=C(C(=CC=C2)OC)OC)=N1 | C14H12ClN3O2
reactant | 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.828 mmol, 0.229 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O2
product | 4-{4-[8-(2,3-Dimethoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=C(C(=CC=C2)OC)OC)=N1 | C30H35N5O4
